US07307094B2
A mixture of 2-(3-bromothiophen-2-yl)benzoxazole-4-carboxylic acid (188 mg, 0.58 mmol), 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (159 mg, 0.70 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (222 mg, 1.16 mmol) and 1-hydroxybenzotriazole (157 mg, 1.16 mmol) in DMF (3 mL) was stirred at room temperature for 10 min, then triethylamine (0.40 mL, 2.9 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane (30 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (2×30 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) and recrystallized from acetonitrile to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(3-bromothiophen-2-yl)benzoxazole-4-carboxamide (199 mg, 75%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.11 (d, J=6.5 Hz, 1H), 8.22 (dd, J=7.5, 1.0 Hz, 1H), 7.70 (d, J=8.0 Hz, 1H), 7.58 (d, J=5.5 Hz, 1H), 7.48 (t, J=8.0 Hz, 1H), 7.24 (d, J=5.5 Hz, 1H), 4.68-4.59 (m, 1H), 3.22-3.13 (m, 2H), 2.70-2.55 (m, 5H), 2.13-1.98 (m, 3H), 1.63-1.49 (m, 3H), 1.26-1.12 (m, 2H); MS (ESI+) m/z 460 (M+H); HPLC>99% (AUC), tR=13.09 min.

reactant | 2-(3-bromothiophen-2-yl)benzoxazole-4-carboxylic acid | 0.58 mmol, 188 mg | BrC1=C(SC=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C12H6BrNO3S
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.70 mmol, 159 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.16 mmol, 222 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.16 mmol, 157 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2.9 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(3-bromothiophen-2-yl)benzoxazole-4-carboxamide | 199 mg, 75% | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C=1SC=CC1Br | C21H22BrN3O2S
